US05268443
A solution of 3-phenoxy-4-methoxybenzoic acid (17.0 g, 0.07 mole), a 48 weight percent aqueous solution of HBr (165 ml, 1.39 mole) and 350 ml of glacial acetic acid was added to a 1-liter, one-necked, round-bottom flask equipped with a reflux condenser, nitrogen inlet adapter and a polytetrafluoroethylene-coated magnetic stir bar. The solution was heated under nitrogen and refluxed for 16 hours. While still hot, the flask was transferred to a rotary evaporator and the volatiles were removed leaving a salmon-colored solid which was added to 200 ml of 1.25N NaOH solution (0.25 mole). Most of the solid dissolved. The insoluble portion was filtered off. The remaining aqueous base solution was added dropwise to a stirred aqueous HCl solution (0.25 mole in 400 ml deionized water) resulting in the precipitation of a salmon-colored solid. The solid was washed in 300 ml of deionized water for 1 hour, filtered, dried at room temperature overnight, and dried under vacuum at 100° C. for 1 hour yielding 3-phenoxy-4-hydroxybenzoic acid.

reactant | 3-phenoxy-4-methoxybenzoic acid | 0.07 mole, 17.0 g | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1OC | C14H12O4
reactant | HBr | 1.39 mole, 165 ml | Br | BrH
reactant | NaOH | 0.25 mole, 1.25N, 200 ml | [OH-].[Na+]
reactant | HCl | 0.25 mole, 400 ml | Cl | ClH
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 3-phenoxy-4-hydroxybenzoic acid | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1O | C13H10O4
